US05356897
To a solution of 4-methylpyridine (74.4 g) and ethyl 4-fluorobenzoate (134.4 g) in dry tetrahydrofuran (600 ml) was added a 1.0M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1.6 l) dropwise with ice cooling. The mixture was stirred at ambient temperature for 30 minutes. To the reaction mixture was added hexane (12.2 l) and the separated solid was collected, washed with hexane and dried. The obtained solid was dissolved in 3N-hydrochloric acid (800 ml) and the solution was neutralized with an aqueous saturated sodium bicarbonate solution. The separated solid was collected, washed with water and dried to give 1-(4-fluorophenyl)-2-(pyridin-4-yl)ethan-1-one (148 g).

reactant | 4-methylpyridine | 74.4 g | CC1=CC=NC=C1 | C6H7N
reactant | ethyl 4-fluorobenzoate | 134.4 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hexane | 12.2 l | CCCCCC | C6H14
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.6 l | O1CCCC1 | C4H8O
product | 1-(4-fluorophenyl)-2-(pyridin-4-yl)ethan-1-one | 148 g | FC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C13H10FNO
